US06015827
3-(4-carboxymethylbenzyloxy)benzamide (Compound NU1041)
To 3-hydroxybenzamide (1.37 g; 10 mmol) was added potassium carbonate (1.38 g; 10 mmol) and methyl 4-chloro-methylbenzoate (1.84 g; 10 mmol) in anhydrous acetonitrile (50 ml). The mixture was heated under reflux for 5 hours.

reactant | 3-hydroxybenzamide | 10 mmol, 1.37 g | OC=1C=C(C(=O)N)C=CC1 | C7H7NO2
reactant | potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 4-chloro-methylbenzoate | 10 mmol, 1.84 g | ClC1=CC(=C(C(=O)OC)C=C1)C | C9H9ClO2
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 3-(4-carboxymethylbenzyloxy)benzamide | C(=O)(O)CC1=CC=C(COC=2C=C(C(=O)N)C=CC2)C=C1 | C16H15NO4
